US05179125
Preparation of diethylaminocarbonylmethyl 3-[(2-acetylthiomethyl-3-phenylpropionyl)amino]benzoate
3-[(2-Acetylthiomethyl-3-phenylpropionyl)amino]-benzoic acid (compound of Example 68-(b)-[1]) (0.72 g) and potassium iodide (0.37 g) are dissolved in DMF, and thereto are added triethylamine (0.2 g) and 2-chloro-N,N-diethylacetamide (0.33 g) with stirring at room temperature, and the mixture is reacted three nights. The reaction mixture is mixed with water and extracted with ethyl acetate. The extract is washed with water, dried over anhydrous magnesium sulfate, and ethyl acetate is distilled off under reduced pressure. The residue is purified by a medium pressure column chromatography using silica gel (eluant, chloroform). The fractions containing the desired compound are collected, and chloroform is distilled off under reduced pressure to give the title compound (0.71 g).

reactant | 3-[(2-Acetylthiomethyl-3-phenylpropionyl)amino]-benzoic acid | 0.72 g | C(C)(=O)SCC(C(=O)NC=1C=C(C(=O)O)C=CC1)CC1=CC=CC=C1 | C19H19NO4S
reactant | potassium iodide | 0.37 g | [I-].[K+]
reactant | triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-N,N-diethylacetamide | 0.33 g | ClCC(=O)N(CC)CC | C6H12ClNO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | diethylaminocarbonylmethyl 3-[(2-acetylthiomethyl-3-phenylpropionyl)amino]benzoate | 0.71 g | C(C)(=O)SCC(C(=O)NC=1C=C(C(=O)OCC(=O)N(CC)CC)C=CC1)CC1=CC=CC=C1 | C25H30N2O5S
